US06143764
N-(4-Trifluoromethylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea [52]
6,7-Dimethoxy-4-(4-aminophenoxy)quinoline (53 mg) was dissolved in toluene (3 ml) with heat, 4-trifluoromethylphenyl isocyanate (0.2 ml) was added, and the admixture was refluxed with heat for 10 minutes. The separated crystals were filtered and washed with toluene to obtain 77 mg of the title compound (yield: 88%).

reactant | 6,7-Dimethoxy-4-(4-aminophenoxy)quinoline | 53 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)N | C17H16N2O3
reactant | 4-trifluoromethylphenyl isocyanate | 0.2 ml | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-Trifluoromethylphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolinyl)oxy]phenyl}urea | 77 mg, yield: 88% | FC(C1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)(F)F | C25H20F3N3O4
